US07553969B1
To a solution of Z-N-Me-Val-OH (700 mg, 2.64 mmol), N-Me-Tyr(3-tBu)-NH2 (0.55 g, 2.20 mmol) and CMPI (674 mg 2.64 mmol) in THF (22 ml), under cooling with ice, TEA (0.61 ml) was added and stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=3:2) to give Z-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (0.98 g, 90%).

reactant | Z-N-Me-Val-OH | 2.64 mmol, 700 mg | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)O)C | C14H19NO4
reactant | N-Me-Tyr(3-tBu)-NH2 | 2.20 mmol, 0.55 g | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C | C14H22N2O2
reactant | water | O | H2O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | Z-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 0.98 g, 90% | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C28H39N3O5
